US07253195B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [5-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-[1,3,4]thiadiazol-2-yl]-amide
A mixture of 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [5-(1,1-dimethyl-2-oxo-ethyl)-[1,3,4]thiadiazol-2-yl]-amide (41 mg), morpholine (25 mg), acetic acid (0.02 ml) in methylene chloride (1 ml) was stirred at room temperature for 1 hr, and sodium triacetoxyborohydride (42 mg) was added. The mixture was stirred at room temperature for at least two days. The mixture was quenched with diluted NaOH and extracted with methylene chloride. The organic layer was separated, concentrated to dryness and the residue was purified by silica gel column chromatography using 35% to 65% ethyl acetate in hexane as eluent to give the title compound. The title compound was prepared as the corresponding HCl salt by adding HCl/doxane, followed by concentration to give a solid. LC_MS retention time 1.7 min M+1=497.0, M−1=495.0.

reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [5-(1,1-dimethyl-2-oxo-ethyl)-[1,3,4]thiadiazol-2-yl]-amide | 41 mg | CC(C=O)(C)C1=NN=C(S1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C19H22F2N4O3S
reactant | morpholine | 25 mg | N1CCOCC1 | C4H9NO
reactant | acetic acid | 0.02 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 42 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [5-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-[1,3,4]thiadiazol-2-yl]-amide | CC(CN1CCOCC1)(C)C1=NN=C(S1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C23H31F2N5O3S
